US04777252
(G) 6,7-Dimethoxy-3-isoquinolinecarboxylic acid
A solution of sodium hydroxide (4.38 g, 109.4 mmol) in 70 ml of water was added to a solution of 6,7-dimethoxy-3-isoquinolinecarboxylic acid, methyl ester (22.54 g, 91.2 mmol) in 1800 ml of water:tetrahydrofuran 1:1. After stirring overnight at room temperature, the tetrahydrofuran was distilled off in vacuo and the pH of the remaining aqueous solution was brought to 3 with 3N hydrochloric acid. The resulting precipitate was filtered off with suction, washed with water and dried in vacuo. Yield: 19.57 g; melting point 228.2° C.

reactant | sodium hydroxide | 109.4 mmol, 4.38 g | [OH-].[Na+]
reactant | 6,7-dimethoxy-3-isoquinolinecarboxylic acid, methyl ester | 91.2 mmol, 22.54 g | COC=1C=C2C=C(N=CC2=CC1OC)C(=O)OC | C13H13NO4
solvent | water | 70 ml | O | H2O
solvent | water tetrahydrofuran | 1800 ml | O.O1CCCC1
product | 6,7-Dimethoxy-3-isoquinolinecarboxylic acid | COC=1C=C2C=C(N=CC2=CC1OC)C(=O)O | C12H11NO4
